US06413938B1
2-Bromo-5,6-dichloro-1-(2,5-dideoxy-2-fluoro-beta-D-ribofuranosyl)-1H-benzimidazole
2-Bromo-5,6-dichloro-1-(3-acetyl-2,5-dideoxy-2-fluoro-beta-D-ribofuranosyl)-1H-benzimidazole (0.42 g, 1.0 mmoles) was dissolved in methanol and ethanol (17 mL each). Sodium carbonate (0.22 g, 2.1 mmoles, 2 eq.) was dissolved in 4.2 mL water and added to the starting material solution. The reaction was stirred at room temperature overnight. The solution was diluted with water (40 mL). The product was extracted with ethyl acetate (2×). The ethyl acetate solution was dried with MgSO4, filtered, and the solvent removed in vacuo. The residue purified by chromatography on 75 g of silica gel eluted with ethyl acetate/hexane (1:4, v/v) followed by (1:2, v/v). The product containing fractions were combined and the solvents removed in vacuo. The yield was 0.3 g, 75%. MS (FAB(+): m/z, 383; 1H NMR (DMSO-d6) δ7.97 (s, 1H, Ar—H), 7.88 (s, 1H, Ar—H), 6.20 (d, 1H, H-1′, J=19 Hz), 5.77 (d, 1H, OH-3′, J=5 Hz), 5.40 (d, 1H, H-2′, J=53 Hz), 4.0 (m, 2H,), 1.40 (d, 3H, H-5′, J=6 Hz).

reactant | 2-Bromo-5,6-dichloro-1-(3-acetyl-2,5-dideoxy-2-fluoro-beta-D-ribofuranosyl)-1H-benzimidazole | 1.0 mmoles, 0.42 g | BrC1=NC2=C(N1[C@H]1[C@@H]([C@](O)([C@H](O1)C)C(C)=O)F)C=C(C(=C2)Cl)Cl | C14H12BrCl2FN2O3
reactant | Sodium carbonate | 2.1 mmoles, 0.22 g, 2 eq. | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | CO | CH4O
solvent | ethanol | 17 mL | C(C)O | C2H6O
solvent | water | 4.2 mL | O | H2O
solvent | water | 40 mL | O | H2O
product | 2-Bromo-5,6-dichloro-1-(2,5-dideoxy-2-fluoro-beta-D-ribofuranosyl)-1H-benzimidazole | BrC1=NC2=C(N1[C@H]1[C@@H]([C@H](O)[C@H](O1)C)F)C=C(C(=C2)Cl)Cl | C12H10BrCl2FN2O2
